US07829560B2
To a 40 ml vial is added 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-amine (1.5 g, 5.50 mmol), 3-bromobenzoic acid (1.66 g, 8.2 mmol), HBTU (3.13 g, 8.2 mmol) and Hunig's base (2.0 ml, 11.0 mmol). The mixture is dissolved in DMF (10 ml), flushed with argon, sealed and agitated at room temperature for 8 hrs. The crude mixture is diluted with water (100 ml) and partitioned with EtOAc (100 ml). The organic layer is washed with water (100 ml). The combined aqueous layers are extracted with EtOAc (2×50 ml). The combined organic layers are dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by flash column chromatography (5% MeOH in ethyl acetate) to afford 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide (1.27 g, 48%). MS: 455 (M+1).

reactant | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-amine | 5.50 mmol, 1.5 g | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
reactant | 3-bromobenzoic acid | 8.2 mmol, 1.66 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | HBTU | 8.2 mmol, 3.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 11.0 mmol, 2.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | 1.27 g, 48% | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C23H23BrN2O3
